US04128429
1-Dimethylamino-2-Propyl Tributylstannyl Ether is prepared from 89.4 gm (0.15 mole) bis(tributyltin) oxide and 30.9 gm (0.3 mole) 1-dimethylamino-2-propanol in 200 ml benzene. This is stirred and heated to reflux in a system that contains a Dean-Starke tube. After refluxing 23 hours a total of 2.6 ml of water (theory 2.7 ml) had collected in the Dean-Starke tube. The solvent is stripped off on a rotating evaporator to provide 111.0 gm of yellow liquid. This is fractionated at reduced pressure with collection at 167°-175° C. at 0.5 mm of 63.4 gm of straw colored liquid. (Percent yield - 54). Infrared spectral analysis shows this liquid to be the desired ether.

reactant | bis(tributyltin) oxide | 0.15 mole, 89.4 gm | CCCC[Sn](CCCC)(CCCC)O[Sn](CCCC)(CCCC)CCCC
reactant | 1-dimethylamino-2-propanol | 0.3 mole, 30.9 gm | CN(CC(C)O)C | C5H13NO
reactant | water | 2.6 ml | O | H2O
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 1-Dimethylamino-2-Propyl Tributylstannyl Ether | C(CCC)[Sn](CCCC)(CCCC)OC(CN(C)C)C | InChI=1S/C5H12NO.3C4H9.Sn/c1-5(7)4-6(2)3;3*1-3-4-2;/h5H,4H2,1-3H3;3*1,3-4H2,2H3;/q-1;;;;+1
